US06780883B2
N-(4-Iodo-phenyl)-isonicotinamide
This compound was synthesized by the same procedure as for Example 15, except isonicotinic acid and 4-iodoaniline were used instead of 2-napthoic acid and 4-iodoaniline. M+325.1, mp 245-250° C.

reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 4-iodoaniline | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 2-napthoic acid | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
product | N-(4-Iodo-phenyl)-isonicotinamide | IC1=CC=C(C=C1)NC(C1=CC=NC=C1)=O | C12H9IN2O
